Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___
 
Chief Complaint:
Fall w/R-sided weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ man with medical history notable for reported Gullian ___ 
Syndrome who presented one day after syncopal episode with 
persistent pain after his fall admitted to medicine for further 
work up. 

Per ED and neurology notes, one day prior to admission patient 
collapsed while playing football, he felt as if his leg gave 
out, he states after the fall he could not walk and had to be 
carried in the house. Morning after the fall, he awoke with 
right sided numbness from the neck down. He notes that his left 
leg is increasing painful since the fall. He noted pan-sensitive 
review of systems including pain in the back of the neck, 
stomach, muscles in the back of the legs, hands. 

Per patient report, on ___ patient was playing football 
with his niece, went to through the football and that was the 
last thing he remembers until he woke up on the ground with his 
friends surrounding him. His friend told him that he hit his 
knee and head. After the incident he went home and slept well, 
next morning he noticed pain in his left knee, numbness and 
tingling in his right hand that progressed to include numbness 
and tingling on his right lower leg and face and he reported to 
the ___ ED. 

Patient reported to ___ on AM ___, had CT scan 
head and neck which were normal. MRI brain was reportedly 
normal, but couldn't tolerate MRI c-spine due to pain in the 
back of his neck. Labs at ___ was positive 
for opiates (not prescribed), negative for EtOH/APAP/ASA, Cr 1.3 
(1.0-1.1 in ___, hgb 15.8, INR 1.1, TSH1.2, CK 374, trop 
<0.02, BNP ___

CT Cervical Spine  ___
1. Reversal of the normal cervical lordosis; non-specific and 
can be due to muscle spasm 
2. No DJD 
3. Hypoenhancing lesion in the right lobe of the thyroid gland 
new compared compared from prior study.  

CT Head w/o Contrast 
No acute intracranial abnormality. No significant change since 
___. 

MRI Brain w/o Contrast
No infract, mass or hemorrhage; normal MRI of the Brain 

Of note, methadone is listed as a previous medication in his 
medication records. 

Similar episode happened to him in ___ when he lost 
consciousness, hit his chin on a counter and was brought to ___ 
treated with IVIG for GBS. Patient states it took weeks for the 
numbness/tingling to completely resolve 

Neurology was consulted in the ED, per their assessment, 
patient's physical exam does not have any focal deficits that 
can be localized to one area of the brain or spinal cord. The 
hemibody sensory loss involves the face, and therefore if brain 
imaging was already done today (as per report) then there is no 
need for c-spine imaging. In addition, given his history of GBS, 
and his report of a similar prodrome to the last GBS episode in 
___, it is worth keeping an eye on his respiratory status. 
Would recommend daily NIFs and VC's (or more regularly if 
worsening). If his neurological exam worsens then would consider 
an LP, though given the hemi-sensory loss, intact reflexes and
improving exam without intervention, suspicion for GBS at this 
time is low. 

In the ED:
Initial Vitals 
Temp  98.7F HR 67 BP 136/87 RR 16b98% RA 
Vital Capacity: 3.8 L. Negative inspiratory force: -60cmH2O. 
Very strong technique.  
Labs 
Na+ 143 K+ 3.8  Cr 1.4 
FSBG 147
ALT 61/AST 34/AP 45/Tbili 0.8/Alb 4.1 Lipase 20
Serum tox negative 
Urine tox negative 
UA positive for ketones/neg leuks, blood, nitrates 
EKG NSR rate 66 PR 148 QTc 423, sloping Ts otherwise normal 
CTA No evidence of pulmonary embolism or acute aortic 
abnormality.
MRI of head from ___ reviewed by the neurology 
attending with no acute process 
CSpine pending 

Received Zofran, 1L NS, ibuprofen 600 mg/APAP 1000 mg/Gabapentin 
300mg/ketorolac 15mg IV 

On neurologic review of systems, the patient denies headache, 
confusion. Denies difficulty with producing or comprehending 
speech. Denies loss of vision, blurred vision, diplopia, 
vertigo, tinnitus, hearing difficulty, dysarthria. Denies loss 
of sensation. Denies bowel or bladder incontinence or retention. 


ROS: (+) per HPI 10 point ROS reviewed and negative other than 
those stated in
HPI. 

 
Past Medical History:
H/O GBS
BPH  
 
Social History:
SOCIAL HISTORY:
Pt states is originally from ___.  States his father who 
worked at ___ passed away when he was ___, before that time 
had been living with 2 parents.  Has 8 siblings (one sibling 
passed away last year).  They lived in a large house together 
growing up.  States he got through ___ year of college at ___ then 
reports was kicked out related to partying/drinking.  He 
eventually went to school to become a ___.  He states 
eventually was not as interestd in that anymore and had tried a 
few different companies/trades previously.  For ___ yrs he owned a 
few ___ and had a ___ company.  He states when he met 
the mother of his child reports because she had more means that 
he didn't have to own a company anymore.  Later for a few months 
he owned a ___.  States he has previous monetary 
resources for companies through when he had lost his father and 
his grandfather previously.  Denies any past hx of physical or 
sexual assault.  States is currently living in ___ with his 
mother.  States he enjoys spending time with his son when he 
can, including going fishing together in ___.  

SUBSTANCE ABUSE HISTORY:
-Tobacco: denies with this writer, per OMR previous smoking in 
his teens
-ETOH: Occassional drinking (last time a few days ago when had 2 
beers).  When he was in college reports had higher level of 
drinking but reports not since that time.  
-Illicit drugs: Previous IV heroin use, denies current heroin 
use (started in ___, stopped ___ times, with last time 
estimated about ___ yrs ago, previously had used methadone 
treatment and then tapered off to quit.  

FORENSIC HISTORY: ___
Family History:
Denies fhx of mental illness or suicide attempts.  States had 
uncles with past drinking.  

 
Physical Exam:
DISCHARGE:
24 HR Data (last updated ___ @ 835)
Temp: 97.8 (Tm 99.7), BP: 122/81 (116-122/74-81), HR: 75 
(72-83),
RR: 18 (___), O2 sat: 97% (95-97), O2 delivery: Ra  
Gen: NAD, sitting comfortably in a chair
HEENT: PERRL, EOMI, OP clear
CV: RRR, nl S1, S2, no m/r/g
Chest: CTAB
Abd: + BS, soft, NT, ND, no HSM
MSK: lower extremities warm without edema
Skin: multiple tattoos 
Neuro: AOx3, CN II-XII intact, ___ strength RUE/LUE/LLE, able to
flex R quad but no flexion/extension of the R hip and no
flexion/extension of the RLE, denies sensation below R knee,
reflexes not reliably elicited in RLE, toes downgoing b/l, gait
not tested
Psych: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION:
___ 12:45AM   WBC-5.0 RBC-4.82 HGB-14.8 HCT-44.2 MCV-92 
MCH-30.7 MCHC-33.5 RDW-12.7 RDWSD-42.5
___ 12:45AM   GLUCOSE-94 UREA N-8 CREAT-1.4* SODIUM-143 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-23 ANION GAP-16
___ 12:45AM   ALT(SGPT)-61* AST(SGOT)-34 ALK PHOS-45 TOT 
BILI-0.8
___ 12:45AM   LIPASE-20
___ 12:45AM   ALBUMIN-4.1
___ 12:45AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

IMAGING:
-Radiology CTA impression: 
"No evidence of pulmonary embolism or acute aortic abnormality."
-MRI C-spine:
Radiology Impression:
"Minimal cervical degenerative disc disease.  No cervical spinal
cord signal abnormality or abnormal enhancement."
-Hip XR:
"No acute osseous injury of the right hip."
-___ EMG report:
IMPRESSION: 
There is electrophysiologic evidence for a mild to moderate 
right
median neuropathy at the wrist, as in carpal tunnel syndrome.
There is no additional evidence for cervical or lumbar
radiculopathies or a more generalized polyneuropathy to explain
the patient's symptoms. 

DISCHARGE:
___ 06:22AM BLOOD WBC-5.4 RBC-4.78 Hgb-14.8 Hct-44.4 MCV-93 
MCH-31.0 MCHC-33.3 RDW-13.5 RDWSD-46.4* Plt ___
___ 06:22AM BLOOD Glucose-83 UreaN-15 Creat-1.3* Na-142 
K-4.3 Cl-102 HCO3-26 AnGap-14
___ 06:22AM BLOOD ALT-84* AST-41* AlkPhos-50 TotBili-0.3
___ 06:22AM BLOOD Calcium-9.0 Phos-3.7 Mg-1.___ year old male with past medical history of Guillain-Barré 
syndrome, remote opiate abuse, hepatitis C, recent incarceration 
admitted for fall/syncope and R-sided weakness, now with 
persistent RLE weakness/numbness without clear organic cause, 
suspicious for conversion disorder.

# RLE weakness/numbness:
Patient presented with fall and R-sided weakness (initially 
upper and lower extremity) to OSH and was transferred for 
further w/u. MRI brain at OSH was negative, as was MRI of the 
C-spine performed on admission. Plain films of the R hip without 
acute pathology, and HIV and RPR were negative as well. He was 
evaluated by neurology, who thought his presentation 
inconsistent with ___ syndrome given the unilateral 
nature of his symptoms. EMG of the RUE and RLE showed only 
mild-mod R median neuropathy at the wrist without additional 
evidence for cervical or lumbar radiculopathies or a generalized 
polyneuropathy. He had migratory weakness and paresthesias, 
isolated to the right side and most prominent in his RLE, 
without a clear organic explanation, and neurology was able to 
elicit a positive Hoover sign. In that setting, his symptoms 
were thought most likely attributable to a functional movement 
disorder (conversion disorder) vs malingering  (unclear 
secondary gain, but patient recently incarcerated with possible 
home stressors). Psychiatry was consulted and recommended 
aggressive physical therapy. He was seen by ___ daily and made 
slow progress during his stay. At the time of discharge, he 
reported no sensation below the R knee but was intermittently 
able to lift the R leg against gravity and wiggle toes on the R 
foot. He remained unable to ambulate, but was pivoting with 
assistance. In discussion with neurology, ___, and OT, he was 
discharged to rehab for ongoing physical therapy.

# Abdominal discomfort:
# Nausea:
# Hx HCV:
# Mild transaminitis:
Reported mild abdominal discomfort with intermittent morning 
nausea that improved over the course of the day. Abdominal exam 
reassuring and appetite intact without diarrhea/constipation.
Labs revealed a nl lipase and a very mild transaminitis in the 
setting of known, untreated HCV, without laboratory evidence of 
biliary obstruction. He was referred to hepatology for 
consideration of HCV therapy and has an appointment on ___.

# Syncope:
Occurred while playing football on a hot day - likely 
orthostatic vs vasovagal. CT PE was negative. Low suspicion for 
ACS (EKG non-ischemic, trop negative at CHA PTA) or arrhythmia 
(telemetry negative). No recurrence while hospitalized.

# ?CKD: 
Cr 1.4 on admission from 1.0 in ___. No change with fluids, and 
Cr stable at 1.3 on discharge. This may be his baseline in 
setting of above-average muscle mass. He should ___ with his PCP 
for repeat BMP as outpatient.

#Thyroid nodule: 
Incidentally seen hypoenhancing lesion in the right lobe of the 
thyroid gland with normal TSH 1.2 at ___ prior to admission. He 
should ___ with his PCP for ___ routine thyroid U/S.

#Acid Reflux
Continued home 20mg omeprazole daily.

** TRANSITIONAL **
[ ] repeat LFTs at PCP ___ consider HCV treatment
[ ] repeat BMP at PCP ___
[ ] ___ thyroid nodule
[ ] patient may benefit from psychiatry ___ going forward; 
please assist with identifying provider

#Code: Full
#Contact: 
Name of health care proxy: ___ 
Relationship: mother 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO TID 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY  
2.  Gabapentin 300 mg PO TID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Functional movement disorder
HCV
GERD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Requires assistance to ambulate with walker
 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
You fell and had weakness of your leg

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
You had an extensive neurologic work-up which was normal
You were diagnosed with functional movement disorder
You worked with physical and occupational therapy to get 
stronger

WHAT SHOULD I DO WHEN I GO HOME?
Continue the exercises you learned in the hospital
Keep your follow up appointments with your care team

Thank you for letting us be a part of your care!
Your ___ Team
 
Followup Instructions:
___